US04572794
27.9 g of 4-(trans-4-pentylcyclohexyl)benzyl chloride (obtained by chloromethylation of trans-4-pentyl-1-phenylcyclohexane or by esterification of 4-(trans-4-pentylcyclohexyl)benzoic acid, reduction of the methyl or ethyl ester obtained to give 4-(trans-4-pentylcyclohexyl)benzyl alcohol and reaction with PCl3) was added within 15 minutes at 60°, with stirring, to a mixture of 5.5 g of NaCN and 40 ml of dimethyl sulfoxide. The mixture was heated at 70° for 6 hours, cooled down, poured into water and 4-(trans-4-pentylcyclohexyl)phenylacetonitrile was obtained, m.p. 53°, c.p. -19°.

reactant | 4-(trans-4-pentylcyclohexyl)benzyl alcohol | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(CO)C=C1 | C18H28O
reactant | PCl3 | P(Cl)(Cl)Cl | Cl3P
reactant | NaCN | 5.5 g | [C-]#N.[Na+]
reactant | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(trans-4-pentylcyclohexyl)phenylacetonitrile | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CC#N | C19H27N
